US06331538B1
3-Benzyloxy-1-(2,4-difluorophenyl)-6,7-difluoro-1H-quinazoline-2,4-dione
N-benzyloxy-2-(2,4-difluoroanilino)-4,5-difluoro-benzamide (Example I-4, 5.66 g, 15 mmol) and carbonyldiimidazole (2.83 g, 17 mmol) were combined in 300 mL of THF and heated to reflux for 30 hours. The solution was cooled, concentrated, and redissolved in chloroform. The solution was washed with 1N HCl, saturated NaHCO3, brine, and dried over magnesium sulfate. The solution was concentrated to give 4.25 g of a solid which was purified by column chromatography (silica gel, CHCl3/MeOH, 98:2) to give 2.0 g of the title compound as a solid.

reactant | N-benzyloxy-2-(2,4-difluoroanilino)-4,5-difluoro-benzamide | 15 mmol, 5.66 g | C(C1=CC=CC=C1)ONC(C1=C(C=C(C(=C1)F)F)NC1=C(C=C(C=C1)F)F)=O | C20H14F4N2O2
reactant | carbonyldiimidazole | 17 mmol, 2.83 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 3-Benzyloxy-1-(2,4-difluorophenyl)-6,7-difluoro-1H-quinazoline-2,4-dione | 4.25 g | C(C1=CC=CC=C1)ON1C(N(C2=CC(=C(C=C2C1=O)F)F)C1=C(C=C(C=C1)F)F)=O | C21H12F4N2O3
